US07235572B2
A 1 M aqueous solution of LiOH (2.3 ml, 2.3 mmol) was added to a solution of {3-ethyl-5-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester (577 mg, 1.15 mmol) in THF (6 ml). After stirring for 1 h at ambient temperature, additional 0.58 ml of the 1N LiOH solution were added and the reaction mixture was stirred for further 2.5 h. Diethyl ether (10 ml) was added, the resulting precipitate was filtered off and redissolved in ethyl acetate and 25% aqueous HCl solution (2 ml). The organic layer was washed with water and dried over sodium sulfate. Removal of the solvent under reduced pressure gave 365 mg (0.77 mmol, 67%) {3-ethyl-5-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid.

reactant | LiOH | 2.3 mmol, 2.3 ml | [Li+].[OH-]
reactant | {3-ethyl-5-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester | 1.15 mmol, 577 mg | C(C)OC(CN1C=C(C2=CC(=CC=C12)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)CC)=O | C26H25F3N2O3S
reactant | LiOH | 1N | [Li+].[OH-]
reactant | Diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | {3-ethyl-5-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid | 0.77 mmol, 365 mg, 67% | C(C)C1=CN(C2=CC=C(C=C12)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)CC(=O)O | C24H21F3N2O3S
